US04420477
To a solution of 1-ethoxalylmethyl-1H-tetrazole-5-thiol (18.6 g) in methanol (186 ml) was added 1 N aqueous solution of sodium hydroxide (172 ml) at room temperature and the mixture was stirred for 40 minutes. After adjusting to pH 7.5 with 10% hydrochloric acid, the solution was evaporated in vacuo to remove methanol and the remained aqueous solution was washed with ethyl acetate (100 ml). The aqueous solution was adjusted to pH 4.0 and washed again with ethyl acetate to remove impurities. The aqueous solution was adjusted to pH 2.5, and extracted with ethyl acetate, dried over magnesium sulfate and evaporated to give pale yellow powder of 1-oxalomethyl-1H-tetrazole-5-thiol (9.7 g), mp 140° to 150° C. (dec.).

reactant | 1-ethoxalylmethyl-1H-tetrazole-5-thiol | 18.6 g | C(=O)(C(=O)OCC)CN1N=NN=C1S | C6H8N4O3S
reactant | sodium hydroxide | 172 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 186 ml | CO | CH4O
product | 1-oxalomethyl-1H-tetrazole-5-thiol | 9.7 g | C(=O)(C(=O)O)CN1N=NN=C1S | C4H4N4O3S
